US05576340
2-{2-[4-(2-Acetoxyethyl)phenoxy]-1-methylethyl}amino-1-(3-chlorophenyl)ethanol (Compound No. 8-1)
Following a procedure similar to that described in Example 6, but using 2 g of 2-[4-(2-oxopropoxy)phenyl]ethyl acetate (prepared as described in Preparation 37), 1.45 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8), 60 ml of dry benzene, 50 ml of absolute isopropanol and 2.06 g of sodium cyanoborohydride, and then purifying the reaction product by column chromatography through silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, 0.49 g of the title compound was obtained, having an Rf=0.34 (thin layer chromatography over silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 2-[4-(2-oxopropoxy)phenyl]ethyl acetate | 2 g | C(C)(=O)OCCC1=CC=C(C=C1)OCC(C)=O | C13H16O4
reactant | 2-amino-1-(3-chlorophenyl)ethanol | 1.45 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | benzene | 60 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 2.06 g | C(#N)[BH3-].[Na+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2-{2-[4-(2-Acetoxyethyl)phenoxy]-1-methylethyl}amino-1-(3-chlorophenyl)ethanol | 0.49 g | C(C)(=O)OCCC1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1 | C21H26ClNO4
